2168-02-15 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2168-2-14**] 04:50 PM
 ARTERIAL LINE - START [**2168-2-14**] 06:00 PM
   No acute events since admission
   Allergies:
   Percodan (Oral) (Oxycodone Hcl/Oxycodon Ter/Asa)
   pt states he [**Last Name (un) **]
   Codeine
   Hives; "I feel
   Last dose of Antibiotics:
   Vancomycin - [**2168-2-14**] 10:23 PM
   Piperacillin/Tazobactam (Zosyn) - [**2168-2-14**] 11:51 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-2-15**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 57 (53 - 65) bpm
   BP: 146/70(92) {117/53(73) - 154/74(248)} mmHg
   RR: 18 (18 - 26) insp/min
   SpO2: 91%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 70 Inch
             Total In:
                                                                    998 mL
                                                                    271 mL
   PO:
                                                                    200 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    423 mL
                                                                     71 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  3,230 mL
                                                                    470 mL
   Urine:
                                                                  1,230 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,233 mL
                                                                   -199 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: 7.38/40/81.[**Numeric Identifier 252**]/23/0
   PaO2 / FiO2: 162
   Physical Examination
   General: Alert, oriented, appears mildly dyspneic but talking in
   complete sentences. Deeply jaundiced.
   HEENT: icteric sclera, dry MM, oropharynx clear
   Neck: supple, R SC HD line
   Lungs: crackles at L base and rhonchi w/ bronchial breath sounds on the
   R.
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, mildly TTP in RUQ, mildly distended, bowel sounds
   present, no rebound tenderness or guarding, no organomegaly appreciated
   Ext: Anasarca w/ 2+ LE edema L > R, Warm, well perfused, 2+ pulses, no
   clubbing, cyanosis or edema
   Skin: ecchymoses on chest and arms
   Labs / Radiology
   35 K/uL
   9.1 g/dL
   203 mg/dL
   3.0 mg/dL
   23 mEq/L
   3.4 mEq/L
   55 mg/dL
   97 mEq/L
   134 mEq/L
   24.3 %
   4.6 K/uL
        [image002.jpg]
                             [**2168-2-14**]  06:13 PM
                             [**2168-2-14**]  06:19 PM
                             [**2168-2-15**]  02:27 AM
                             [**2168-2-15**]  02:59 AM
   WBC
   5.2
   4.6
   Hct
   22.4
   24.3
   Plt
   42
   35
   Cr
   3.0
   TCO2
   24
   25
   Glucose
   203
   Other labs: PT / PTT / INR:23.1/42.3/2.2, ALT / AST:25/58, Alk Phos / T
   Bili:45/51.4, Lactic Acid:1.3 mmol/L, Albumin:3.9 g/dL, Ca++:9.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Imaging: None
   Microbiology: UCx Pending
   Assessment and Plan
   This is a 50 M w/ ESLD now listed for transplant, here w/ hepato-renal
   syndrome, rising bilirubin, coagulopathy, thromobcytopenia and
   transferred w/ hypoxia and tachypnea after receiving IV contrast.
   # Hypoxia/tachypnea: Large A-a gradient and still requiring a NRB to
   maintain O2 sats.  DDx from pulmonary edema from volume overload and
   renal failure vs PE given LLE DVT (but has an IVC filter and not a
   candidate for anticoagulation) vs aspiration pneumonitis vs alveolar
   hemorrhage (given recent hct drop and asymmetric pulmonary infiltrates,
   although no hemoptysis).
   - continue NRB for now
   - placed an a-line
   - HD tonight w/ goal of 2 KG fluid removal
   - IVC filter in place for DVT and will hopefully prevent PE
   - Vanc/Zosyn will be continued for possible Hospital Aquired PNA
   - nebs prn
   - will try BIPAP if decompensates further (body habitus c/w possible
   OSA)
   # Anemia: Macrocytic.  Likely mixed etiology from cirrhosis, renal
   disease, phlebotomy but hct did not increase appropriately to 2 U PRBC
   yesterday.  No clear source of bleeding.  Having large volume BM w/o
   frank blood.  No large pleural effusions.  Could be from alveolar
   hemorrhage but no hemoptysis.  HCT was stable over the course of the
   day.  Hemolysis labs mixed w/ elevated Bili, very low haptoglobin but
   w/o increased LDH and poor liver synthetic function.  Smear w/o
   schistocytes.
   - will transfuse 1 U PRBC w/ goal hct > 25 given possible bleeding
   - trend q 6 hrs for now
   - T&S
   # Acute renal failure: Presumed to be from hepato-renal syndrome.  Now
   requiring dialysis.
   - HD tonight
   - appreciate renal input
   - continue octreotide, midodrine
   # Hep C/ EtOH cirrhosis: MELD is 43.  Was just listed for transplant
   and is being followed by transplant surgery.  Bili continues to rise as
   does INR.  Also w/ thrombocytopenia.
   - follow lfts, coags, plts
   - continue lactulose, rifaxamin
   - Cholestyramine for pruritis in addition to hydroxazine
   - Cardiology consult requested given mild pulm HTN and possible
   pulmonic stenosis (does this affect transplant)
   - Await final read on MRV of liver
   - Appreciate hepatology and transplant recs
   # IDDM: BS not well-controlled since admission w/ range from 195-314
   today.
   - continue Glargine 40 U w/ [**Hospital1 1663**] for now, will not increase for now as
   NPO
   # LLE DVT: s/p IVC filter.  Not a candidate for anticoagulation given
   coagulopathy.
   # FEN: No IVF, replete electrolytes, NPO for now given hypoxia
   # Prophylaxis: Pneumoboots, PPI
   # Access: peripheral X 1, RSC HD line (placed [**2-12**]), R art line placed
   [**2-14**].
   - PICC requested
   # Code: presumed full
   # Communication: Patient
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2168-2-14**] 04:50 PM
   20 Gauge - [**2168-2-14**] 04:50 PM
   Arterial Line - [**2168-2-14**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-02-16 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - HD today, improved following
   - IV team unsuccessful with PICC placement, put in for IR to place
   tomorrow.
   - Cards recommended starting amlodpine 5mg QD and Cardiac MRI/A to
   evaluate pulmonic stenosis, however does not need to be done acutely
   - Transfused one unit of PRBCs for Hct at 21, drop likely secondary to
   nosebleed earlier in the day, serial blood draws and picc line attempts
   Allergies:
   Percodan (Oral) (Oxycodone Hcl/Oxycodon Ter/Asa)
   pt states he [**Last Name (un) **]
   Codeine
   Hives; "I feel
   Last dose of Antibiotics:
   Vancomycin - [**2168-2-15**] 03:39 PM
   Piperacillin/Tazobactam (Zosyn) - [**2168-2-16**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-2-16**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.8
C (100
   HR: 58 (55 - 67) bpm
   BP: 113/52(72) {102/42(62) - 150/75(160)} mmHg
   RR: 23 (16 - 34) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
           Total In:
                                                                    990 mL
                                                                    745 mL
   PO:
                                                                    400 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    590 mL
                                                                    270 mL
   Blood products:
   375 mL
   Total out:
                                                                    785 mL
                                                                      0 mL
   Urine:
                                                                    785 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    205 mL
                                                                    745 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General: Alert, oriented, appears mildly dyspneic but talking in
   complete sentences. Jaundiced.
   HEENT: icteric sclera, dry MM, oropharynx clear
   Neck: supple, R SC HD line
   Lungs: crackles at L base and rhonchi w/ bronchial breath sounds on the
   R. Improved from transfer exam
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, mildly TTP in RUQ, mildly distended, bowel sounds
   present, no rebound tenderness or guarding, no organomegaly appreciated
   Ext: Anasarca w/ 2+ LE edema L > R, Warm, well perfused, 2+ pulses, no
   clubbing, cyanosis or edema
   Skin: ecchymoses on chest and arms
   Labs / Radiology
   37 K/uL
   9.4 g/dL
   147 mg/dL
   3.0 mg/dL
   25 mEq/L
   3.5 mEq/L
   44 mg/dL
   99 mEq/L
   136 mEq/L
   24.5 %
   5.3 K/uL
        [image002.jpg]
                             [**2168-2-14**]  06:13 PM
                             [**2168-2-14**]  06:19 PM
                             [**2168-2-15**]  02:27 AM
                             [**2168-2-15**]  02:59 AM
                             [**2168-2-15**]  02:57 PM
                             [**2168-2-15**]  09:55 PM
                             [**2168-2-16**]  05:13 AM
   WBC
   5.2
   4.6
   5.3
   Hct
   22.4
   24.3
   24.7
   21.0
   24.5
   Plt
   42
   35
   37
   Cr
   3.0
   3.0
   TCO2
   24
   25
   Glucose
   203
   147
   Other labs: PT / PTT / INR:23.1/42.3/2.2, ALT / AST:26/65, Alk Phos / T
   Bili:46/53.7, Fibrinogen:163->110 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:3.9 g/dL, LDH:235 IU/L, Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.3
   mg/dL
   Cryo: Pending, ANCA: Pending
   Imaging: No new imaging
   Microbiology:  URINE CULTURE (Final [**2168-2-15**]):
         YEAST.    ~1000/ML.
   Assessment and Plan
   This is a 50 M w/ ESLD now listed for transplant, here w/ hepato-renal
   syndrome, rising bilirubin, coagulopathy, thromobcytopenia and
   transferred w/ hypoxia and tachypnea after receiving IV contrast.
   # Hypoxia/tachypnea: Large A-a gradient and requiring NC to maintain O2
   sats.  DDx from pulmonary edema from volume overload and renal failure
   vs alveolar hemorrhage given recent hct drop and asymmetric pulmonary
   infiltrates.
   - NL, NRB or BIPAP Prn
   - ? D/C Vanc/Zosyn will be continued for possible Hospital Aquired PNA
   - nebs prn
   # Anemia: Macrocytic.  Likely mixed etiology from cirrhosis, renal
   disease, phlebotomy but hct did not increase appropriately to 2 U PRBC
   yesterday.  Could be from alveolar hemorrhage but no hemoptysis.  HCT
   was stable over the course of the day.  Hemolysis labs mixed w/
   elevated Bili, very low haptoglobin but w/o increased LDH and poor
   liver synthetic function.  Smear w/o schistocytes.
   - will transfuse 1 U PRBC w/ goal hct > 25 given possible bleeding
   - trend q 6 hrs for now
   - T&S
   - ANCA, Anti-GBM antibodies, Cryoglobulin Pending
   - Add Fibrinognen
   - Defer bronchoscopy until after success/failure of HD in resolving
   volume status
   # Acute renal failure: Presumed to be from hepato-renal syndrome.  Now
   requiring dialysis.
   - appreciate renal input
   - continue midodrine, D/C octreotide
   # Hep C/ EtOH cirrhosis: MELD is 43.  Was just listed for transplant
   and is being followed by transplant surgery.  Bili continues to rise as
   does INR.  Also w/ thrombocytopenia.
   - follow lfts, coags, plts
   - continue lactulose, rifaxamin
   - Cholestyramine for pruritis in addition to hydroxyzine
   - Cardiology consult requested given mild pulm HTN and possible
   pulmonic stenosis (does this affect transplant)
   - Await final read on MRV of liver
   - Appreciate hepatology and transplant recs
   - Cardiology consult for pre-op evaluation/Echo results interpretation
   # IDDM: BS not well-controlled since admission w/ range from 195-314
   today.
   - continue Glargine 40 U w/ [**Hospital1 1663**] for now, will not increase for now as
   NPO
   # LLE DVT: s/p IVC filter.  Not a candidate for anticoagulation given
   coagulopathy.
   # FEN: No IVF, replete electrolytes, Renal Diet
   # Prophylaxis: Pneumoboots, PPI
   # Access: peripheral X 1, RSC HD line (placed [**2-12**]), R art line placed
   [**2-14**].
   - PICC requested: DDAVP written for pre-PICC ppx
   # Code: presumed full
   # Communication: Patient
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2168-2-14**] 04:50 PM
   20 Gauge - [**2168-2-14**] 04:50 PM
   Arterial Line - [**2168-2-14**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-02-16 11:13:00 Physician Attending Progress Note
Chief Complaint: hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   50 yo man with ESRD with Hep C/ETOH etiology.  MELD 40.  Admitted with
   fluid overload and hypoxemia.  Improved with HDX2.  Also had Hct drop
   for unclear reasons, (24 to 21).  Got 1U.
   24 Hour Events:
   Allergies:
   Percodan (Oral) (Oxycodone Hcl/Oxycodon Ter/Asa)
   pt states he [**Last Name (un) **]
   Codeine
   Hives; "I feel
   Last dose of Antibiotics:
   Vancomycin - [**2168-2-15**] 03:39 PM
   Piperacillin/Tazobactam (Zosyn) - [**2168-2-16**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   SSI
   mucomyst
   cholestyramine
   rifax
   midodrine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Eyes: No(t)  Blurry vision
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: Dyspnea, mild dyspnea
   Genitourinary: No(t) Dysuria
   Musculoskeletal: No(t) Joint pain
   Integumentary (skin): Jaundice
   Endocrine: No(t) Hyperglycemia
   Heme / Lymph: Anemia
   Neurologic: No(t) Numbness / tingling
   Psychiatric / Sleep: No(t) Agitated
   Allergy / Immunology: No(t) Immunocompromised
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2168-2-16**] 11:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.8
C (100.1
   HR: 58 (55 - 67) bpm
   BP: 137/59(84) {102/42(62) - 151/77(160)} mmHg
   RR: 19 (16 - 34) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 70 Inch
           Total In:
                                                                    990 mL
                                                                  1,184 mL
   PO:
                                                                    400 mL
                                                                    500 mL
   TF:
   IVF:
                                                                    590 mL
                                                                    309 mL
   Blood products:
   375 mL
   Total out:
                                                                    785 mL
                                                                      0 mL
   Urine:
                                                                    785 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    205 mL
                                                                  1,184 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases)
   Abdominal: Soft, Distended
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, mild asteriskis
   Labs / Radiology
   9.4 g/dL
   37 K/uL
   147 mg/dL
   3.0 mg/dL
   25 mEq/L
   3.5 mEq/L
   44 mg/dL
   99 mEq/L
   136 mEq/L
   24.5 %
   5.3 K/uL
        [image002.jpg]
                             [**2168-2-14**]  06:13 PM
                             [**2168-2-14**]  06:19 PM
                             [**2168-2-15**]  02:27 AM
                             [**2168-2-15**]  02:59 AM
                             [**2168-2-15**]  02:57 PM
                             [**2168-2-15**]  09:55 PM
                             [**2168-2-16**]  05:13 AM
   WBC
   5.2
   4.6
   5.3
   Hct
   22.4
   24.3
   24.7
   21.0
   24.5
   Plt
   42
   35
   37
   Cr
   3.0
   3.0
   TCO2
   24
   25
   Glucose
   203
   147
   Other labs: PT / PTT / INR:25.9/50.2/2.6, ALT / AST:26/65, Alk Phos / T
   Bili:46/53.7, Fibrinogen:110 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:3.9
   g/dL, LDH:235 IU/L, Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Hypoxemia and respiratory distress:  Much improved today, although is
   still hypoxemia, grossly flulid overloaded.  continue HD to remove
   fluid.  Increase humidification.
   Antibiotics d/c as no evidence of infection.
   Alveolar hemorrhage:  unclear if this is occurring - but less likely
   since overal respiratory status is improving, but hct is still
   dropping.  Bronch would be unlikely to be helpful as he may have some
   hemorrhage from coagulopathy would, not
   change management.
   Anemia:  continues to drop Hct - unclear if GIB is present.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2168-2-14**] 04:50 PM
   20 Gauge - [**2168-2-14**] 04:50 PM
   Arterial Line - [**2168-2-14**] 06:00 PM
   Comments: to get pic line today
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: can call out if Hct is stable
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill